US09108921B2
Step F: Compound 403: N-(4-(4-(2-fluoro-2-methylpropyl)-4-hydroxypiperidine-1-carbonyl)phenyl)benzo[d]thiazole-4-sulfonamide
To a round-bottom flask was added with 4-(2-fluoro-2-methylpropyl) piperidin-4-ol (25 mg 0.143 mmol), 4-(benzo[d]thiazole-4-sulfonamido)benzoic acid (47 mg, 0.143 mmol), DIPEA (110 mg, 0.85 mmol), HATU (54 mg, 0.143 mmol), and DCM (5 mL). The mixture was stirred at r.t. for 16 hours. After washing with satd. NaHCO3, brine, the combined organic layer was dried over anhy. Na2SO4 and concentrated in vacuo. Purification by a standard method gave the desired compound. 1H NMR (CHLOROFORM-d) δ: 9.31 (s, 1H), 8.19 (dd, J=8.1, 0.8 Hz, 1H), 8.10 (dd, J=7.5, 1.1 Hz, 1H), 7.93 (s, 1H), 7.54 (t, J=7.9 Hz, 1H), 7.16-7.23 (m, J=8.3 Hz, 2H), 7.05-7.15 (m, J=8.3 Hz, 2H), 4.19-4.47 (m, 1H), 3.46 (d, J=15.6 Hz, 1H), 3.35 (d, J=15.3 Hz, 2H), 1.89 (s, 3H), 1.84 (s, 3H), 1.49-1.55 (m, 3H), 1.46 (s, 3H). LC-MS: m/z 492.65 (M+H)+

reactant | 4-(2-fluoro-2-methylpropyl) piperidin-4-ol | 0.143 mmol, 25 mg | FC(CC1(CCNCC1)O)(C)C | C9H18FNO
reactant | 4-(benzo[d]thiazole-4-sulfonamido)benzoic acid | 0.143 mmol, 47 mg | S1C=NC=2C1=CC=CC2S(=O)(=O)NC2=CC=C(C(=O)O)C=C2 | C14H10N2O4S2
reactant | DIPEA | 0.85 mmol, 110 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.143 mmol, 54 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | N-(4-(4-(2-fluoro-2-methylpropyl)-4-hydroxypiperidine-1-carbonyl)phenyl)benzo[d]thiazole-4-sulfonamide | FC(CC1(CCN(CC1)C(=O)C1=CC=C(C=C1)NS(=O)(=O)C=1C=CC=C2C1N=CS2)O)(C)C | C23H26FN3O4S2
